US09302991B2
<Step-1>:tert-butyl ethyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (single enantiomer)
The title compound is prepared in >99% yield (0.24 g, colorless oil) from tert-butyl (1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (0.22 g, 0.69 mmol, Step-1 of Amine-3) and iodoethane instead of iodomethane by the similar manner in Step-2 of Amine-3.

reactant | tert-butyl (1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 0.69 mmol, 0.22 g | FC(COC1=CC=C(C=N1)C(C)NC(OC(C)(C)C)=O)(F)F | C14H19F3N2O3
reactant | iodoethane | ICC | C2H5I
product | tert-butyl ethyl(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | >99% yield | C(C)N(C(OC(C)(C)C)=O)C(C)C=1C=NC(=CC1)OCC(F)(F)F | C16H23F3N2O3
